US04451474
Preparation of 11-p-t-butylphenoxy-1-undecanol
The methyl 11-(p-tert-butylphenoxy)-undecanoate, 3.7 g, 10.6 mmoles, was dissolved in 100 ml dry diethyl ether and added, dropwise, to a stirred slurry of 0.5 g lithium aluminum hydride in 100 ml dry diethyl ether. After one hour the reaction mixture was filtered through Celite and the filtrate was treated with 100 ml 1 N hydrochloric acid. The organic layer was removed, dried (MgSO4), and concentrated to a yellow oil, 2.7 g. The oil was chromatographed on 200 g 90 to 200 mesh silica gel (2% MeOH/CH2Cl2 eluent) collecting the product as a white, waxy solid. The solid was recrystallized from warm pentane yielding pure 11-(p-tert-butylphenoxy)-undecanol, 1.1 g, m.p. 39° to 40° C.

reactant | methyl 11-(p-tert-butylphenoxy)-undecanoate | C(C)(C)(C)C1=CC=C(OCCCCCCCCCCC(=O)OC)C=C1 | C22H36O3
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 11-p-t-butylphenoxy-1-undecanol | C(C)(C)(C)C1=CC=C(OCCCCCCCCCCCO)C=C1 | C21H36O2
